US09056859B2
Step B: Methyl 5-bromo-3-(bromomethyl)thiophene-2-carboxylate
In a 100 mL round bottom flask, methyl 5-bromo-3-methylthiophene-2-carboxylate (1.50 g, 6.38 mmol) was dissolved in tetrachloromethane (30 mL). To above solution was added 1-bromopyrrolidine-2,5-dione (1.14 g, 6.38 mmol, 1.0 eq) and diphenylperoxyanhydride (0.155 g, 0.638 mmol, 0.1 eq). The reaction was stirred at 90° C. for 18 hr. To above reaction was added dichloromethane (30 mL), washed with aqueous sodium bicarbonate, brine and water. The organic phase was dried over MgSO4, filtered and concentrated. The crude was used in next step without purification. LC-MS (IE, m/z): 337.4 [M+N]+.

reactant | methyl 5-bromo-3-methylthiophene-2-carboxylate | 6.38 mmol, 1.50 g | BrC1=CC(=C(S1)C(=O)OC)C | C7H7BrO2S
reactant | 1-bromopyrrolidine-2,5-dione | 6.38 mmol, 1.14 g, 1.0 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | tetrachloromethane | 30 mL | ClC(Cl)(Cl)Cl | CCl4
product | Methyl 5-bromo-3-(bromomethyl)thiophene-2-carboxylate | BrC1=CC(=C(S1)C(=O)OC)CBr | C7H6Br2O2S
